US07129232B2
To a suspension of 1,1′-carbonyldiimidazole (973 mg) in methylene chloride (10 ml) was added tert-butyl N-(2-aminoethyl)carbamate (1.11 g) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture were added N-ethyldiisopropylamine (1.28 g) and 3-amino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine sulfuric acid salt (1.18 g), and the mixture was stirred at 50° C. for 6 hours. The reaction mixture was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 5% methanol/chloroform to give 3-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (150 mg) as a solid.

reactant | 1,1′-carbonyldiimidazole | 973 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-butyl N-(2-aminoethyl)carbamate | 1.11 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | N-ethyldiisopropylamine | 1.28 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-amino-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine sulfuric acid salt | 1.18 g | S(O)(O)(=O)=O.NC=1C=NN2C1NCCC2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 150 mg | C(C)(C)(C)OC(=O)NCCNC(NC=1C=NN2C1NCCC2)=O | C14H24N6O3
